US08492372B2
N,N-DIMETHYL-1-[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHANAMINE
Preparation according to Example 22 using 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine (30 mg, 0.10 mmol), N-methylmethanamine (2.0 M in MeOH, 0.50 ml, 1.0 mmol) and EtOH (1.0 ml). MS m/z (rel. intensity, 70 eV) 271 (M+, 1), 77 (4), 59 (4), 58 (bp), 51 (3).

reactant | 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.10 mmol, 30 mg | BrCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C10H11BrO4S
reactant | N-methylmethanamine | 1.0 mmol, 2.0 M, 0.50 ml | CNC | C2H7N
solvent | EtOH | 1.0 ml | CCO | C2H6O
product | N,N-DIMETHYL-1-[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHANAMINE | CN(CC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C)C | C12H17NO4S
